US07041685B2
5-(3-Chloro-thiophen-2-yl)-3-(pyrazin-2-yl)-[1,2,4]-oxadiazole
The title compound was prepared from pyrazine-2-amidoxime (42.2 mg, 0.306 mmol) and 3-chloro-thiophene-2-carbonyl chloride (55 mg, 0.30 mmol) similar to Example 16, and yielded 67.4 mg (84%) of white solid. 1H NMR (CDCl3): 9.45 (d, J=1.37 Hz, 1H), 8.81 (dd, J=2.48, 1.65 Hz, 1H), 8.77 (d, J=2.47 Hz, 1H), 7.66 (d, J=4.95 Hz, 1H), 7.16 (d, J=5.50 Hz, 1H).

reactant | pyrazine-2-amidoxime | 0.306 mmol, 42.2 mg | N1=C(C=NC=C1)C(N)=NO | C5H6N4O
reactant | 3-chloro-thiophene-2-carbonyl chloride | 0.30 mmol, 55 mg | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
product | 5-(3-Chloro-thiophen-2-yl)-3-(pyrazin-2-yl)-[1,2,4]-oxadiazole | ClC1=C(SC=C1)C1=NC(=NO1)C1=NC=CN=C1 | C10H5ClN4OS
